US05234930
A mixture of (2R)-1-[3-(2-phenylpyrazolo[1,5-a]-pyridin-3-yl)acryloyl]-2-(methoxycarbonylmethyl-)piperidine (trans isomer) (210 mg) and 1N sodium hydroxide solution (0.573 ml) in methanol (2.0 ml) was heated to reflux for 2 hours. Methanol was evaporated in vacuo and water (20 ml) was added to the residue. The solution was acidified with 1N hydrochloric acid and extracted with methylene chloride (10 ml×2). The combined extracts were washed with brine (10 ml), dried over sodium sulfate and evaporated in vacuo. The crude crystals were recrystallized from a mixture of ethyl acetate and diethyl ether to give colorless crystals of (2R)-1-[3-(2-phenylpyrazolo[1,5-a]-pyridin-3-yl)acryloyl]-2-(carboxymethyl)piperidine (trans isomer) (152.7 mg).

reactant | (2R)-1-[3-(2-phenylpyrazolo[1,5-a]-pyridin-3-yl)acryloyl]-2-(methoxycarbonylmethyl-)piperidine | 210 mg | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1[C@H](CCCC1)CC(=O)OC | C24H25N3O3
reactant | sodium hydroxide | 1N, 0.573 ml | [OH-].[Na+]
solvent | methanol | 2.0 ml | CO | CH4O
product | (2R)-1-[3-(2-phenylpyrazolo[1,5-a]-pyridin-3-yl)acryloyl]-2-(carboxymethyl)piperidine | 152.7 mg | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=CC(=O)N1[C@H](CCCC1)CC(=O)O | C23H23N3O3
